US06492370B1
1-[(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]propionyl]-4-methylpiperazine (Compound No. 30-1)
1-[(2S)-2-[3-[2-(Acetylthio)ethyl]-3-phenethylureido]propionyl]-4-methylpiperazine (Compound No. 13-2, 36.6 g) is dissolved in methanol (87 ml) under a nitrogen atmosphere, and the solution is cooled with ice. A 1 N aqueous sodium hydroxide solution (87 ml) is added dropwise thereto, and the mixture is stirred under ice cooling for 10 minutes. A 10% aqueous citric acid solution is added to the reaction mixture under ice cooling to adjust pH to 7. The mixture is concentrated under reduced pressure, a10% aqueous sodium hydrogencarbonate solution (300 ml) is added to the concentrate, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give the titled compound (Compound No. 30-1).

reactant | 1-[(2S)-2-[3-[2-(Acetylthio)ethyl]-3-phenethylureido]propionyl]-4-methylpiperazine | 36.6 g | C(C)(=O)SCCN(C(N[C@H](C(=O)N1CCN(CC1)C)C)=O)CCC1=CC=CC=C1 | C21H32N4O3S
reactant | sodium hydroxide | 1 N, 87 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 87 ml | CO | CH4O
product | 1-[(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]propionyl]-4-methylpiperazine | SCCN(C(N[C@H](C(=O)N1CCN(CC1)C)C)=O)CCC1=CC=CC=C1 | C19H30N4O2S
